US04877899
Two drops of DBU is added to methyl 2-butynoate (6.0 g) under N2. 1-Octanethiol (8.96 g, 61.2 mmol) is added dropwise over 20 min. with cooling with an ice bath. The mixture is allowed to come to RT and is stirred overnight. It is then diluted with ether, washed, dried and stripped and the product is purified by prep. TLC to give methyl (E)-3-octylthio-2butenoate.

reactant | methyl 2-butynoate | 6.0 g | C(C#CC)(=O)OC | C5H6O2
reactant | 1-Octanethiol | 61.2 mmol, 8.96 g | C(CCCCCCC)S | C8H18S
catalyst | DBU | Two drops | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | ether | CCOCC | C4H10O
product | methyl (E)-3-octylthio-2butenoate | C(CCCCCCC)S/C(=C/C(=O)OC)/C | C13H24O2S
